US07199265B2
Boronitribromide (12 mL, 1 N in dichloromethane) was added to a cooled mixture of 3,5-dibromo-4-(4-nitrophenoxy)anisole (2.0 g) in dichloromethane (50 mL) and left for 16 hours at room temperature. Hydrochloric acid (2 N) was added and the reaction mixture was heated at reflux for 15 minutes. The reaction mixture was diluted with dichloromethane, washed with water and concentrated. Quantitative yield of 3,5-dibromo-4-(4-nitrophenoxy) phenol was obtained.

reactant | 3,5-dibromo-4-(4-nitrophenoxy)anisole | 2.0 g | BrC=1C=C(C=C(C1OC1=CC=C(C=C1)[N+](=O)[O-])Br)OC | C13H9Br2NO4
reactant | Hydrochloric acid | 2 N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3,5-dibromo-4-(4-nitrophenoxy) phenol | Quantitative yield | BrC=1C=C(C=C(C1OC1=CC=C(C=C1)[N+](=O)[O-])Br)O | C12H7Br2NO4
